US04771051
B. 1,2,3,4-tetrahydro-3-methyl-2,4-dioxo-quinazoline
6 g isatoic anhydride was stirred in 100 ml dry tetrahydrofurane(THF) and methylamine was passed through the mixture for 5 min. The resulting solution was evaporated and the residue was again dissolved in THF (100 ml) and charged with 15 ml 30% phosgene solution in toluene. The mixture was heated to reflux and additional 15 ml phosgene solution was added. After 4 hours reflux the mixture was cooled and evaporated to dryness. The residue was treated with water and the crystals were collected by filtration. The yield was 3.5 g. M.p. 240.4°-240.5° C.

reactant | isatoic anhydride | 6 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | methylamine | CN | CH5N
product | 1,2,3,4-tetrahydro-3-methyl-2,4-dioxo-quinazoline | CN1C(NC2=CC=CC=C2C1=O)=O | C9H8N2O2
